Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: CARDIOTHORACIC
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
chset pressure
 
Major Surgical or Invasive Procedure:
coronary artery bypass grafting ___, SVG-OM, 
SVG-DG

 
History of Present Illness:
___ year old male who complains of
several months of worsening chest pressure with exertion. No
nausea or vomiting or diaphoresis. No shortness of breath or
fevers or chills or cough. Stress test performed today and was
positive for cardiac ischemia. Sent to the ED for admission for
cardiac catheterization. He was found to have coronary artery
disease upon cardiac catheterization and is now being referred 
to
cardiac surgery for revascularization.

 
Past Medical History:
borderline hypertension
 
Social History:
___
Family History:
Family History:Father s/p MI at age ___, s/p CABG in ___

 
Physical Exam:
Pulse:54 Resp:12  O2 sat:98/RA 
B/P  Right:119/72    Left: 118/68
___     Weight:181 lbs

General: awake alert oriented
Skin: Dry [x] intact [x]
HEENT: PERRLA [x] EOMI [x]
Neck:  Supple [x] Full ROM [x]
Chest: Lungs clear bilaterally [x]
Heart: RRR [x]  Irregular []  Murmur
Abdomen: Soft [x] non-distended [x] non-tender [x] 
+ bowel sounds
Extremities: Warm [x], well-perfused [x]  
no Edema no Varicosities
Neuro: Grossly intact
Pulses:
Femoral      Right:2+   Left:2+
DP           Right:2+   Left:2+
___           Right:2+   Left:2+
Radial       Right:2+   Left:2+
Pt is right handed; cath was done via R radial artery;
___ test: delayed filling on the left; more rapid filling on
the left. 

Carotid Bruit        Right: no   Left: no

 
Pertinent Results:
ECHO:
Pre CPB:
No spontaneous echo contrast or thrombus is seen in the body of 
the left atrium or left atrial appendage. 
No atrial septal defect is seen by 2D or color Doppler. 
Left ventricular wall thicknesses are normal. The left 
ventricular cavity is mildly dilated. Overall left ventricular 
systolic function is normal (LVEF>55%). 
Tissue Doppler imaging suggests a normal left ventricular 
filling pressure (PCWP<12mmHg). 
There are simple atheroma in the descending thoracic aorta. 
There are three aortic valve leaflets. There is no aortic valve 
stenosis. No aortic regurgitation is seen. 
Mild (1+) mitral regurgitation is seen. 
Dr. ___ was notified in person of the results. 

Post CPB:
The patient is being A-paced on a phenylephrine infusion.
The biventricular sytoic function is preserved.
There is mild MR.
___ visible contours of the thoracic aorta are intact.  
 
Brief Hospital Course:
The patient was admitted to the hospital and brought to the 
operating room on ___ where the patient underwent coronary 
artery bypass graft x 4 (see operative note for details).  
Overall the patient tolerated the procedure well and 
post-operatively was transferred to the CVICU in stable 
condition for recovery and invasive monitoring.  POD 1 found the 
patient extubated, alert and oriented and breathing comfortably. 
 The patient was neurologically intact and hemodynamically 
stable on no inotropic or vasopressor support.  Beta blocker was 
initiated and the patient was gently diuresed toward the 
preoperative weight. Unable to initiate cardiazem for RIMA graft 
due to borderline low blood pressure while on low dose 
lopressor. The patient was transferred to the telemetry floor 
for further recovery.  Chest tubes and pacing wires were 
discontinued per protocol without complication.  The patient was 
evaluated by the physical therapy service for assistance with 
strength and mobility.  By the time of discharge on POD #4 the 
patient was ambulating freely, the wound was healing and pain 
was controlled with oral analgesics.  The patient was discharged 
home on POD# 4 in good condition with appropriate follow up 
instructions.
 
Medications on Admission:
aspirin
 
Discharge Medications:
1. simvastatin 40 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).
Disp:*30 Tablet(s)* Refills:*2*
2. magnesium hydroxide 400 mg/5 mL Suspension Sig: Thirty (30) 
ML PO HS (at bedtime) as needed for constipation.  
3. docusate sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).  
4. aspirin 81 mg Tablet, Delayed Release (E.C.) Sig: One (1) 
Tablet, Delayed Release (E.C.) PO DAILY (Daily).
Disp:*30 Tablet, Delayed Release (E.C.)(s)* Refills:*2*
5. Lasix 20 mg Tablet Sig: Two (2) Tablet PO once a day for 7 
days.
Disp:*14 Tablet(s)* Refills:*0*
6. potassium chloride 20 mEq Packet Sig: Two (2) Packet PO once 
a day for 7 days.
Disp:*14 Packet(s)* Refills:*0*
7. hydromorphone 2 mg Tablet Sig: ___ Tablets PO Q3H (every 3 
hours) as needed for pain.
Disp:*70 Tablet(s)* Refills:*0*
8. metoprolol tartrate 25 mg Tablet Sig: 0.5 Tablet PO TID (3 
times a day).
Disp:*45 Tablet(s)* Refills:*2*
9. Motrin 600 mg Tablet Sig: One (1) Tablet PO every eight (8) 
hours as needed for pain.
Disp:*90 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
coronary artery disease

 
Discharge Condition:
Alert and oriented x3 nonfocal 
Ambulating with steady gait
Incisional pain managed with oral analgesics
Incisions: 
Sternal - healing well, no erythema or drainage 
Edema; trace

 
Discharge Instructions:
Please shower daily including washing incisions gently with mild 
soap, no baths or swimming, and look at your incisions
Please NO lotions, cream, powder, or ointments to incisions
Each morning you should weigh yourself and then in the evening 
take your temperature, these should be written down on the chart
No driving for approximately one month and while taking 
narcotics, will be discussed at follow up appointment with 
surgeon when you will be able to drive
No lifting more than 10 pounds for 10 weeks
Please call with any questions or concerns ___

**Please call cardiac surgery office with any questions or 
concerns ___. Answering service will contact on call 
person during off hours**

 
Followup Instructions:
___